US05131911
A mixture of 3-ethoxy-2-hydroxy-6-nitrobenzaldehyde (58 g, 0.275 mole), benzyl chloride (34.8 cm3, 0.302 mole) and potassium carbonate (41.6 g, 0.302 mole) in 300 cm3 of dimethylformamide is heated for 3 hours under reflux with stirring. The reaction mixture is poured into 1 liter of iced water and the precipitate is filtered off. It is washed with water and dried. A light beige powder of 2-benzyloxy-3-ethoxy-2-nitrobenzaldehyde (72 g, yield=86%, m.p.=110°-111° C.) is obtained.

reactant | 3-ethoxy-2-hydroxy-6-nitrobenzaldehyde | 0.275 mole, 58 g | C(C)OC=1C(=C(C=O)C(=CC1)[N+](=O)[O-])O | C9H9NO5
reactant | benzyl chloride | 0.302 mole, 34.8 cm3 | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 0.302 mole, 41.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 liter | O | H2O
reactant | dimethylformamide | 300 cm3 | CN(C=O)C | C3H7NO
product | 2-benzyloxy-3-ethoxy-2-nitrobenzaldehyde | 72 g, yield=86% | C(C1=CC=CC=C1)OC1(C(C=O)C=CC=C1OCC)[N+](=O)[O-] | C16H17NO5
